US08008307B2
Step c: {(3aR,4R,6R,6aS)-6-[{6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}-methanol
{(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol (130 mg, 0.41 mmol) was weighed into a microwave reaction tube and dissolved in 1-butanol (1.50 mL). To this solution was added N,N-diisopropylethylamine (0.22 mL, 1.24 mmol) and (S)-(+)-1-aminoindan (0.16 mL, 1.24 mmol) and the mixture was heated in a sealed tube under microwave irradiation at 200° C. for 4 h. The reaction mixture was concentrated under vacuum, and the residue was purified via silica gel column chromatography eluting with a gradient of 2 to 5% methanol in DCM to afford the title compound (40.5 mg, 24%) as a colorless oil. LC/MS: Rt=1.49 min ES+ 411.5 (AA standard).

reactant | {(3aR,4R,6R,6aS)-6-[(6-chloropyrimidin-4-yl)(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}methanol | 0.41 mmol, 130 mg | ClC1=CC(=NC=N1)N([C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO)C | C14H20ClN3O3
reactant | N,N-diisopropylethylamine | 1.24 mmol, 0.22 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-(+)-1-aminoindan | 1.24 mmol, 0.16 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | 1-butanol | 1.50 mL | C(CCC)O | C4H10O
product | {(3aR,4R,6R,6aS)-6-[{6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}-(methyl)amino]-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl}-methanol | 40.5 mg, 24% | [C@@H]1(CCC2=CC=CC=C12)NC1=CC(=NC=N1)N([C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO)C | C23H30N4O3
